US09034900B2
Step 3: N-[4-(2,4-difluorophenoxy)-3-(2-methyl-1-oxo-2,7-naphthyridin-4-yl)phenyl]ethanesulfonamide
Ethanesulfonyl chloride (25.4 mg, 0.198 mmol) was added to 4-[5-amino-2-(2,4-difluorophenoxy)phenyl]-2-methyl-2,7-naphthyridin-1-one (25.0 mg, 0.066 mmol) and TEA (20.0 mg, 0.198 mmol) in DCM (5 mL) at 0° C. The mixture was stirred at room temperature for 18 h and then purified by preparative HPLC to give the title compound (8.5 mg, 27.4%) as yellow gum. 1H NMR (Methanol-d4, 400 MHz) δ 9.54 (s, 1H), 8.68 (d, J=4.4 Hz, 1H), 8.00 (s, 1H), 7.66 (d, J=8.4 Hz, 1H), 7.38-7.33 (m, 2H), 7.09-6.99 (m, 2H), 6.96-6.94 (d, J=8.4 Hz, 1H), 6.91-6.85 (m, 1H), 3.70 (s, 3H), 3.15 (q, J=7.6 Hz, 2H), 1.35 (t, J=7.6 Hz, 3H). LCMS: 472.1 (M+H)+

reactant | Ethanesulfonyl chloride | 0.198 mmol, 25.4 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 4-[5-amino-2-(2,4-difluorophenoxy)phenyl]-2-methyl-2,7-naphthyridin-1-one | 0.066 mmol, 25.0 mg | NC=1C=CC(=C(C1)C1=CN(C(C2=CN=CC=C12)=O)C)OC1=C(C=C(C=C1)F)F | C21H15F2N3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(2,4-difluorophenoxy)-3-(2-methyl-1-oxo-2,7-naphthyridin-4-yl)phenyl]ethanesulfonamide | 8.5 mg, 27.4% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C3=CN=CC=C23)=O)C)C=CC(=C1)F | C23H19F2N3O4S
